US07704995B2
1-(1,1-dimethylethyl) 3-ethyl (3S)-piperidine-1,3-dicarboxylate:
To an ice-cooled, stirred solution of (S)-(+)-ethyl nipecotate (3.95 g, 25.1 mmnol, from Sigma-Aldrich) in 20 mL of THF, was added 8.21 g (37.6 mmol, 1.5 eq.) of di-tert-butyl dicarbonate. The ice bath was removed, and the reaction stirred at room temperature for 19 h and concentrated. The crude oil was purified by silica gel chromatography (55 mm column, 5 inches of silica gel) using 15% EtOAc in hexanes as eluent. Concentration afforded 6.28 g (97.2% yield) of product as an oil.

reactant | (S)-(+)-ethyl nipecotate | 3.95 g | N1C[C@@H](C(=O)OCC)CCC1 | C8H15NO2
reactant | di-tert-butyl dicarbonate | 37.6 mmol, 8.21 g, 1.5 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(1,1-dimethylethyl) 3-ethyl (3S)-piperidine-1,3-dicarboxylate | 6.28 g, 97.2% yield | N1(C[C@H](CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
